US07199239B2
Intermediate 46: Ethyl {4-[((2-methoxyethyl){4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)methyl]-2-methylphenoxy}acetate
A mixture of 2-(methylsulfonyl)-4-[4-(trifluoromethyl)phenyl]pyrimidine (0.2 g, 0.66 mmol), N,N-diisopropylethylamine (0.11 mL, 0.66 mmol) and ethyl (4-{[(2-methoxyethyl)amino]methyl}-2-methylphenoxy)acetate (0.28 g. 0.99 mmol) was heated at 100° C. in a sealed reactivial for 20 h. The reaction mixture was then allowed to come to room temperature, and the residue dissolved in CH2Cl2 (30 mL), the organic extract was washed water (20 mL) and passed through a hydrophobic frit before concentrating in vacuo. Purification by Biotage™ chromatography (Silica, 90 g) eluting 1:9 EtOAc:cyclohexane afforded the title compound as a pale yellow oil (0.08 g).

reactant | 2-(methylsulfonyl)-4-[4-(trifluoromethyl)phenyl]pyrimidine | 0.66 mmol, 0.2 g | CS(=O)(=O)C1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2O2S
reactant | N,N-diisopropylethylamine | 0.66 mmol, 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl (4-{[(2-methoxyethyl)amino]methyl}-2-methylphenoxy)acetate | 0.99 mmol, 0.28 g | COCCNCC1=CC(=C(OCC(=O)OCC)C=C1)C | C15H23NO4
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl {4-[((2-methoxyethyl){4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)methyl]-2-methylphenoxy}acetate | 0.08 g | COCCN(C1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C26H28F3N3O4
